US05861417
1.4.2 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dimethoxyphenyl)-3 -(2-hydroxyethyl)pyrrolidine
Combine 3-(3,4-dimethoxyphenyl)--3-(2-hydroxyethyl)pyrrolidine (5.34 g, 21.2 mmol) and sodium carbonate (1.24 g, 11.7 mmol) in ethyl acetate/water (4/1) (120 mL). Cool the reaction mixture to -5° C. with an salt-ice bath. Slowly, add 2-methoxy-5-(1H-tetrazol-1-yl)benzoyl chloride (22.3 mmol) as a solution in ethyl acetate (60 mL) at a rate such that the temperature of the reaction mixture does not rise above 0° C. Maintain the reaction temperature at about 0° C. After 18 hours, separate the organic layer. Extract the organic layer twice with 1M aqueous hydrochloric acid solution, saturated solution of sodium bicarbonate, water and a saturated solution of sodium chloride. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Combine the aqueous layers and neutralize with a saturated solution of sodium bicarbonate. Extract the neutralized aqueous layers with dichloromethane. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain the title compound.

reactant | 3-(3,4-dimethoxyphenyl)--3-(2-hydroxyethyl)pyrrolidine | 21.2 mmol, 5.34 g | COC=1C=C(C=CC1OC)C1(CNCC1)CCO | C14H21NO3
reactant | sodium carbonate | 11.7 mmol, 1.24 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-methoxy-5-(1H-tetrazol-1-yl)benzoyl chloride | 22.3 mmol | COC1=C(C(=O)Cl)C=C(C=C1)N1N=NN=C1 | C9H7ClN4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate water | 120 mL | C(C)(=O)OCC.O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dimethoxyphenyl)-3 -(2-hydroxyethyl)pyrrolidine | COC1=C(C(=O)N2CC(CC2)(CCO)C2=CC(=C(C=C2)OC)OC)C=C(C=C1)N1N=NN=C1 | C23H27N5O5
